US05552427
Preparation of 1-methyl-2-(Phenylalanyl)amino-imidazole dihydrochloride:
2-(N-Boc-phenylalanyl)amino-1-methylimidazole (0.3 g) was dissolved in conc. hydrochloric acid (10 ml), and the solution was stirred at room temperature for 30 minutes. The solvent was evaporated, and the precipitated colorless powder was separated by filtration using diethyl ether to give the title compound (0.23 g, 66.3%).

reactant | 2-(N-Boc-phenylalanyl)amino-1-methylimidazole | 0.3 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)NC=1N(C=CN1)C | C18H24N4O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
product | 1-methyl-2-(Phenylalanyl)amino-imidazole dihydrochloride | 0.23 g, 66.3% | Cl.Cl.CN1C(=NC=C1)NC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C13H16N4O.2ClH/c1-17-8-7-15-13(17)16-12(18)11(14)9-10-5-3-2-4-6-10;;/h2-8,11H,9,14H2,1H3,(H,15,16,18);2*1H/t11-;;/m0../s1
